US07605171B2
Step B: 1-(4-(5-(4-Isopropoxy-3-(trifluoromethyl)phenyl)-1,2,4-oxadiazol-3-yl)-3-methylphenyl)ethane-1,2-diol
To a solution of 215 mg (0.55 mmol) of 5-(4-isopropoxy-3-(trifluoromethyl)phenyl)-3-(2-methyl-4-vinylphenyl)-1,2,4-oxadiazole and 78 mg (0.66 mmol) of 4-methylmorpholine N-oxide in 12 mL of 3:1 v:v THF/H2O mix solvent was added 347 μL (0.03 mmol) osmium tetraoxide (2.5 wt %). After stirring at rt overnight, the mixture was poured into brine and extracted with EtOAc (3×20 mL). Organic layers were combined, dried over Na2SO4, and concentrated. Chromatography on Biotage 40S cartridge using 7:3 v/v EtOAc/hexanes as the eluant afforded 143 mg of the title compound: 1H NMR (500 MHz, CDCl3) δ 1.43 (d, J=5.9, 6H), 2.30 (br. s, 2H), 2.67 (s, 3H), 3.68 (dd, J=8.1, 11.4, 1H), 3.80 (dd, J=3.6, 11.3, 1H), 4.78 (m, 1H), 4.86 (dd, J=3.5, 8.0, 1H), 7.13 (d, J=8.7, 1H), 7.32-7.34 (m, 2H), 8.05 (d, J=8.0, 1H), 8.29 (dd, J=2.2, 8.8, 1H), 8.41 (d, J=2.1, 1H).

reactant | 5-(4-isopropoxy-3-(trifluoromethyl)phenyl)-3-(2-methyl-4-vinylphenyl)-1,2,4-oxadiazole | 0.55 mmol, 215 mg | C(C)(C)OC1=C(C=C(C=C1)C1=NC(=NO1)C1=C(C=C(C=C1)C=C)C)C(F)(F)F | C21H19F3N2O2
reactant | 4-methylmorpholine N-oxide | 0.66 mmol, 78 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | THF H2O | C1CCOC1.O
reactant | brine | [Cl-].[Na+].O
catalyst | osmium tetraoxide | 0.03 mmol, 347 μL | [Os](=O)(=O)(=O)=O
product | 1-(4-(5-(4-Isopropoxy-3-(trifluoromethyl)phenyl)-1,2,4-oxadiazol-3-yl)-3-methylphenyl)ethane-1,2-diol | 143 mg | C(C)(C)OC1=C(C=C(C=C1)C1=NC(=NO1)C1=C(C=C(C=C1)C(CO)O)C)C(F)(F)F | C21H21F3N2O4
